US05523302
120a) Methyl 3-((N,N-bis-(2-hydroxyethyl)amino))benzoate
Ethylene oxide (16 mL, 330 mmol) was added rapidly via a cold syringe to a solution of methyl 3-aminobenzoate (5.0g, 33 mmol), glacial acetic acid (40 mL), and water (40 mL) with stirring at 0 ° C. under nitrogen beneath a dry ice/acetone condenser. After 1 h, the cold bath was removed and the reaction stirred for 43 h at room temperature. Water was added, and the mixture neutralized by adding solid sodium bicarbonate portionwise. After a series of EtOAc/H2O extractions, the crude product was isolated by concentration under reduced pressure. Purification by chromatography on silica gel, eluting with 0% to 5% MeOH in EtOAc, and evaporation yielded an oil (6.9 g). IR(neat): cm-1 3340, 1718. 1H NMR(300 MHz, CDCl3): 7.38-6.87 (m, 4H), 3.90-3.85 (m, 7H), 3.65-3.59 (m, 4H), 3.27 (s, 2H). HR-MS: Calc'd. 240.1236, Found 240.1237.

reactant | Ethylene oxide | 330 mmol, 16 mL | C1CO1 | C2H4O
reactant | methyl 3-aminobenzoate | 33 mmol, 5.0g | NC=1C=C(C(=O)OC)C=CC1 | C8H9NO2
reactant | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | water | 40 mL | O | H2O
product | Methyl 3-((N,N-bis-(2-hydroxyethyl)amino))benzoate | 6.9 g | OCCN(CCO)C=1C=C(C(=O)OC)C=CC1 | C12H17NO4
